US05362906
Step 1: Dimethyl [2-hydroxy-(E,E)-4,8,12-trimethyl-3,7,11-tridecatrienyl]phosphonate
n-Butyllithium (0.698 ml of a 2.5M solution in hexanes, 1.75 mmol) was added to a stirred solution of dimethyl methylphosphonate (0.189 ml, 1.75 mmol) in THF (4 ml), under argon at -78° C. The resulting colorless solution was stirred at this temperature for 20 min. Farnesal (350 mg, 1.59 mmol) in THF (4 ml) was added over 5 min and the resulting mixture stirred a further 30 min and then treated with saturated sodium bicarbonate solution (5 ml) and allowed to warm to r.t. The THF was evaporated in vacuo and the aqueous extracted twice with ethylacetate, washed with brine, dried (MgSO4) and concentrated in vacuo. The residue was chromatographed on silica gel eluted with ethylacetate to afford the title compound as an oil.

reactant | n-Butyllithium | C(CCC)[Li]
reactant | dimethyl methylphosphonate | 1.75 mmol, 0.189 ml | CP(OC)(OC)=O | C3H9O3P
reactant | Farnesal | 1.59 mmol, 350 mg | CC(=CCC/C(=C/CC/C(=C/C=O)/C)/C)C | C15H24O
reactant | sodium bicarbonate | 5 ml | C([O-])(O)=O.[Na+]
solvent | THF | 4 ml | C1CCOC1 | C4H8O
solvent | THF | 4 ml | C1CCOC1 | C4H8O
product | Dimethyl [2-hydroxy-(E,E)-4,8,12-trimethyl-3,7,11-tridecatrienyl]phosphonate | OC(CP(OC)(OC)=O)\C=C(\CC\C=C(\CCC=C(C)C)/C)/C | C18H33O4P
